US07265093B2
Synthesis of (S)-1-(2,3-Dioxo-2,3-dihydro-1H-indole-5-sulfonyl)-pyrrolidine-2-carboxylic acid methyl ester.
The title compound was prepared from L-Pro-OMe following the procedure for 2,3-Dioxo-2,3-dihydro-1H-indole-5-sulfonic acid propylamide.

reactant | L-Pro-OMe | N1[C@H](C(=O)OC)CCC1 | C6H11NO2
reactant | 2,3-Dioxo-2,3-dihydro-1H-indole-5-sulfonic acid propylamide | C(CC)NS(=O)(=O)C=1C=C2C(C(NC2=CC1)=O)=O | C11H12N2O4S
product | (S)-1-(2,3-Dioxo-2,3-dihydro-1H-indole-5-sulfonyl)-pyrrolidine-2-carboxylic acid methyl ester | COC(=O)[C@H]1N(CCC1)S(=O)(=O)C=1C=C2C(C(NC2=CC1)=O)=O | C14H14N2O6S
